US09168247B2
Synthesis of Compound JR79 (See Table 1): 1-methyl-7-benzyloxy-β-carboline
The title compound was synthesized from 1-methyl-7-hydroxy-β-carboline (0.500 g, 1.59 mmol) in presence of cesium carbonate (1.410 g, 4.33 mmol) and 1-bromomethylbenzene (0.432 g, 2.53 mmol) as described here above.

reactant | 1-methyl-7-hydroxy-β-carboline | 1.59 mmol, 0.500 g | CC1=NC=CC=2C3=CC=C(C=C3NC12)O | C12H10N2O
reactant | cesium carbonate | 4.33 mmol, 1.410 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromomethylbenzene | 2.53 mmol, 0.432 g | BrCC1=CC=CC=C1 | C7H7Br
product | 1-methyl-7-benzyloxy-β-carboline | Yield=70% | CC1=NC=CC=2C3=CC=C(C=C3NC12)OCC1=CC=CC=C1 | C19H16N2O
